US08048897B2
(2) Synthesis of (1R,2S,3R,6R)-6-[2-(4-Cyclopropyl-benzyl)phenoxy]-4-(hydroxymethyl)cyclohex-4-ene-1,2,3-triol
In a nitrogen stream, a boron trichloride 1.0 M methylene chloride solution (160 μL, 0.16 mmol) was added to a solution of 1-(4-cyclopropylphenyl)methyl-2-[(1R,4R,5S,6S)-4,5,6-tris-benzyloxy-3-(benzyloxymethyl)-cyclohex-2-enyloxy]benzene (12 mg, 0.016 mmol) and pentamethylbenzene (24 mg, 0.17 mmol) in methylene chloride (300 μL) at −78° C., and the mixture was stirred at the same temperature for 1.5 hours. After addition of methanol, the temperature of the resulting solution was raised to room temperature and the solvent was distilled under reduced pressure. The obtained residue was purified by preparative TLC [developing solution=methanol:methylene chloride (1:8)] to obtain the title compound (4.1 mg, 70%).

reactant | boron trichloride | 0.16 mmol, 1.0 M, 160 μL | B(Cl)(Cl)Cl | BCl3
reactant | 1-(4-cyclopropylphenyl)methyl-2-[(1R,4R,5S,6S)-4,5,6-tris-benzyloxy-3-(benzyloxymethyl)-cyclohex-2-enyloxy]benzene | 0.016 mmol, 12 mg | C1(CC1)C1=CC=C(C=C1)CC1=C(C=CC=C1)O[C@@H]1C=C([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C51H50O5
reactant | pentamethylbenzene | 0.17 mmol, 24 mg | CC=1C(=C(C(=C(C1)C)C)C)C | C11H16
reactant | methanol | CO | CH4O
solvent | methylene chloride | 300 μL | C(Cl)Cl | CH2Cl2
product | (1R,2S,3R,6R)-6-[2-(4-Cyclopropyl-benzyl)phenoxy]-4-(hydroxymethyl)cyclohex-4-ene-1,2,3-triol | 4.1 mg, 70% | C1(CC1)C1=CC=C(CC2=C(O[C@@H]3C=C([C@H]([C@@H]([C@H]3O)O)O)CO)C=CC=C2)C=C1 | C23H26O5
